US05777132
Preparation of 2-(p-Chlorophenyl-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of N-(p-chloro-α-cyanobenzyl)-2,2,2-trifluoro-N-methylacetamide (13.8 g, 0.05 mol) in toluene is treated with 2-chloroacrylonitrile (4.4 g, 0.05 mol) and methanesulfonic acid (4.8 g, 0.05 mol), heated at 110° C. for 4 hours, treated with a second portion of 2-chloroacrylonitrile (4.4 g, 0.05 mol) and methanesulfonic acid (4.8 g, 0.05 mol), heated at 110° C. for 12 hours, cooled and treated with ethyl acetate and water. The phases are separated and the organic phase is washed with water and concentrated to give a residue. The residue is chromatographed using silica gel packed with 15% ethyl acetate in heptane and eluted with 20% ethyl acetate in heptane to give the title product as pale yellow crystals, 4.8 g (34% yield), mp 129°-130° C.

reactant | N-(p-chloro-α-cyanobenzyl)-2,2,2-trifluoro-N-methylacetamide | 0.05 mol, 13.8 g | ClC1=CC=C(C(C#N)N(C(C(F)(F)F)=O)C)C=C1 | C11H8ClF3N2O
reactant | 2-chloroacrylonitrile | 0.05 mol, 4.4 g | ClC(C#N)=C | C3H2ClN
reactant | methanesulfonic acid | 0.05 mol, 4.8 g | CS(=O)(=O)O | CH4O3S
reactant | 2-chloroacrylonitrile | 0.05 mol, 4.4 g | ClC(C#N)=C | C3H2ClN
reactant | methanesulfonic acid | 0.05 mol, 4.8 g | CS(=O)(=O)O | CH4O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | p-Chlorophenyl-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | 34% yield | ClC1=CC=C(C=C1)C=1N(C(=CC1C#N)C(F)(F)F)C | C13H8ClF3N2
